### PR TITLE
Primitive persistent arrays

### PR DESCRIPTION
**Pull request by maximedenes**
TODO:
- [x] Review what happens on `Karg` arguments when primitive reduces
- [x] Add tests and fix test suite
- [x] Replace type with default value in `constr`
- [x] Safer `Parray` API
- [x] Make `array` universe polymorphic
- [x] Clean up extraction directives
- [x] Address todos and fixmes in the code
- [x] Guard condition and positivity for nested arrays
- [x] `max_array_length` should be a primitive
- [x] try to improve syntax of literals
- [x] add tests for `PArray.make`
- [x] fix syntax clash with ssr's `p.[e]` notation

- [x] Added / updated test-suite

- [x] Corresponding documentation was added / updated (including any warning and error messages added / removed / modified).
- [x] Entry added in the changelog (see https://github.com/coq/coq/tree/master/doc/changelog#unreleased-changelog for details).

### CODE REVIEW

**Comment by JasonGross** [comment]
I look forward to the documentation on this. :-) (Is there already a CEP?)

**Comment by maximedenes** [comment]
There is no CEP since this work was started in 2010, long before CEP were created ;)

I'll add some documentation, of course.

File: kernel/typeops.ml [hunk 1]
```diff
@@ -591,6 +617,15 @@ let rec execute env cstr =
...
     | Float _ -> cstr, type_of_float env
+    | Array(t,def) ->
+      let def', ty = execute env def in
+      let ta = type_of_array env in
+      let t' = Array.Smart.map (fun x ->
+        let x', xt = execute env x in
+        check_cast env x' xt DEFAULTcast ty;
+        x') t in
+      let cstr = if def'==def && t'==t then cstr else mkArray(t',def') in
+      cstr, mkApp(ta, [|ty|])
```
Comment (SkySkimmer) [inline kernel/typeops.ml]: Once we can put types bigger then Set in arrays this seems incorrect, ie 
~~~coq
Fail Check [| Set | nat |].
~~~
ie we need to somehow find a common supertype instead of assuming that the inferred type of the default is what we want.

We also lose subject reduction:
~~~coq
Definition u := Type.
Definition x : array u := [| | nat : u |].
Fail Definition y : array u := Eval lazy in x.
~~~
the eval removes the cast, so we get `[| | nat |] : array Set` and `array Set <> array u`.

We probably need to include the `ty` as a subterm of the array literal to avoid this.

File: kernel/term_typing.ml [hunk 2]
```diff
@@ -90,15 +90,16 @@ let infer_declaration env (dcl : constant_entry) =
                         prim_entry_content = op_t;
                       }) ->
       let env = push_context_set ~strict:true uctxt env in
+      let u = Univ.Instance.empty (* FIXME *) in
```
Comment (SkySkimmer) [inline kernel/term_typing.ml]: Working with the universes and explicit type in the polymorphic case is possible but I don't see a clean way to do it.
Are we very attached to the syntax with the type explicitly given? If not IMO we should just remove it and simplify the code.
cc @maximedenes

Comment (SkySkimmer) [reply kernel/term_typing.ml]: We figured it out eventually.

**Comment by SkySkimmer** [comment]
Typing machines should now handle array/univ poly primitives correctly.

The code in term_typing could maybe be factored more but it was
clearer to do it separately when writing it.

Declaring polymorphic constants with an explicit type seems to work,
see eg

~~~coq
Primitive make : forall A, int -> A -> array A := #array_make.
~~~

in PArray.v, but if the universes produced are incorrect we currently
get assertion failures (the asserts in term_typing), TODO fix this.

(NB: we can also use a universe declaration, eg
`Primitive make@{u} : forall A : Type@{u}, := #array_make.`)

File: kernel/constr.mli [hunk 3]
```diff
@@ -238,6 +241,7 @@ type ('constr, 'types, 'sort, 'univs) kind_of_term =
   | Proj      of Projection.t * 'constr
   | Int       of Uint63.t
   | Float     of Float64.t
+  | Array     of 'univs * 'constr array * 'constr * 'types
```
Comment (ejgallego) [inline kernel/constr.mli]: Something that I've been wondering for a while is if `constr` should not group all primitive types under a `Prim` constructor; this seems a bit more scalable, as of today adding a new primitive type is quite invasive I think.

File: kernel/cClosure.ml [hunk 4]
```diff
@@ -1099,154 +657,639 @@ module FNativeEntries =
...
+            end
+          | VarKey id -> assoc_defined id cache.i_env
+          | ConstKey cst -> constant_value_in cache.i_env cst
+        in
+        Def (inject body)
+      with
+      | NotEvaluableConst (IsPrimitive (u,op)) when Int.equal (CPrimitives.arity op) 0 ->
+        begin match FredNative.red_prim cache.i_env () op u [||] with
+          | Some m -> Def m
+          | None -> Primitive op
```
Comment (SkySkimmer) [inline kernel/cClosure.ml]: When does a 0-arity primitive not reduce?

File: kernel/cPrimitives.mli [hunk 5]
```diff
@@ -51,11 +51,19 @@ type t =
...
+  | Arraycopy
+  | Arrayreroot
+  | Arraylength
+  | Arraymaxlength
 
 val equal : t -> t -> bool
 
 type arg_kind =
-  | Kparam (* not needed for the elavuation of the primitive*)
+  | Kparam (* not needed for the evaluation of the primitive*)
```
Comment (SkySkimmer) [inline kernel/cPrimitives.mli]: Is the comment still true? For instance `Arraymake` uses the type in the literal it produces.

File: kernel/constr.mli (hunk 3 above)
Comment (SkySkimmer) [reply kernel/constr.mli]: >Something that I've been wondering for a while is if constr should not group all primitive types under a Prim constructor; this seems a bit more scalable, as of today adding a new primitive type is quite invasive I think.

I don't see how it would help. Since arrays contain constrs all the folds would still need updating for instance

Comment (ejgallego) [reply kernel/constr.mli]: You would need to update `fold_prim` indeed; I was thinking more on the lines of "imagine I want to add today 'primitive integers'"

Can it be done in a non-invasive way?

Comment (maximedenes) [reply kernel/constr.mli]: Why make strings primitive, rather than define them using arrays and integers?

Comment (ejgallego) [reply kernel/constr.mli]: Indeed, I mostly meant them as an example. It could be well the case that no more primitive stuff is needed so it'd be pointless to wonder about this.

Comment (JasonGross) [reply kernel/constr.mli]: I think the question is not 'would it be useful to have anything else?' but 'how much should we include in the Coq kernel, and how and why?'  After chatting with @andres-erbsen, it seems there are other data structures were imperative implementations can give useful speedups.  For example, it seems union-find requires interesting imperative features (cf [Formalization of a persistent union-find data structure in Coq](https://www.lri.fr/~filliatr/puf/)), and I'm told that representing bignums via arrays or linked lists of ints from within Coq would break the CPU's ability to perform out-of-order execution (due to double-indirection of pointers).  (Unclear if we care about this level of performance.)  I wonder if @ppedrot has thoughts on this.

Comment (maximedenes) [reply kernel/constr.mli]: I'm not saying there are no more interesting candidates for primitive data structures (I don't know). Anyway, I don't see how adding a `Primitive` constructor would help. Each iterator, comparison function, reduction machine, typing machine, would still have to be adapted.

File: kernel/cClosure.ml (hunk 4 above)
Comment (maximedenes) [reply kernel/cClosure.ml:868]: I think it always reduces. Do you want an `assert false`?

Comment (SkySkimmer) [reply kernel/cClosure.ml:868]: If it always reduces what's the point of it not being a regular definition?

Comment (maximedenes) [reply kernel/cClosure.ml:868]: The point was to have only one source of truth for the max length, instead of hardcoding it once in ML and once in Gallina, with an axiom essentially saying that the two values agree. I can backtrack on it, though. I don't recall if this value can be architecture-dependent.

Comment (SkySkimmer) [reply kernel/cClosure.ml:868]: We could have the primitive entry produce a regular definition, then the value doesn't appear in gallina.

Comment (maximedenes) [reply kernel/cClosure.ml:868]: Good point, it would probably be less invasive than the current approach, and minimize code diffs.

File: test-suite/Makefile [hunk 6]
```diff
@@ -112,7 +112,7 @@ INTERACTIVE := interactive
 UNIT_TESTS := unit-tests
 VSUBSYSTEMS := prerequisite success failure $(BUGS) output output-coqtop \
   output-modulo-time $(INTERACTIVE) micromega $(COMPLEXITY) modules stm \
-  coqdoc ssr primitive/uint63 primitive/float ltac2
+  coqdoc ssr primitive/uint63 primitive/float primitive/arrays ltac2
```
Comment (SkySkimmer) [inline test-suite/Makefile:115]: perhaps
```suggestion
  coqdoc ssr $(wildcard primitive/*) ltac2
```
would be more future proof

File: kernel/inferCumulativity.ml [hunk 7]
```diff
@@ -138,6 +138,7 @@ let rec infer_fterm cv_pb infos variances hd stk =
     let le = Esubst.subs_liftn n e in
     let variances = infer_vect infos variances (Array.map (mk_clos le) cl) in
     infer_stack infos variances stk
+  | FArray _ -> infer_stack infos variances stk (* FIXME *)
```
Comment (maximedenes) [inline kernel/inferCumulativity.ml:141]: @SkySkimmer would you mind fixing this for me, since you know this code better? Thanks!

File: kernel/inferCumulativity.ml [hunk 8]
```diff
@@ -138,6 +138,13 @@ let rec infer_fterm cv_pb infos variances hd stk =
     let le = Esubst.subs_liftn n e in
     let variances = infer_vect infos variances (Array.map (mk_clos le) cl) in
     infer_stack infos variances stk
+  | FArray (u,elemsdef,ty) ->
+    let variances = infer_generic_instance_eq variances u in
+    let variances = infer_fterm CONV infos variances ty [] in
+    let elems, def = Parray.to_array elemsdef in
+    let variances = infer_fterm CONV infos variances def [] in
+    let variances = infer_vect infos variances elems in
```
Comment (SkySkimmer) [inline kernel/inferCumulativity.ml:146]: I used to_array instead of writing a Parray.fold combinator mostly because I'm unfamiliar with the parray stuff. As a consequence we get some useless Array.copy.

Comment (maximedenes) [reply kernel/inferCumulativity.ml:146]: @SkySkimmer I'm writing a fold combinator. Do you think it should apply the function to the array's default value or not?

File: kernel/cPrimitives.mli (hunk 5 above)
Comment (maximedenes) [reply kernel/cPrimitives.mli:72]: It was indeed a bug, should be fixed now.

File: kernel/cPrimitives.mli [hunk 9]
```diff
@@ -105,8 +132,12 @@ val op_or_type_to_string : op_or_type -> string
...
 
-type ind_or_type =
-  | PITT_ind : 'a prim_ind * 'a -> ind_or_type
-  | PITT_type : prim_type -> ind_or_type
+val univs : t -> Univ.AUContext.t
+
+val types : t -> Constr.rel_context * ind_or_type list list
+(** Parameters * Reduction relevant arguments and output type
+
+    TODO reify universes in ind_or_type (currently polymorphic types
```
Comment (maximedenes) [inline kernel/cPrimitives.mli:140]: @SkySkimmer should this be addressed now?

File: kernel/cPrimitives.mli [hunk 10]
```diff
@@ -70,32 +80,49 @@ val hash : t -> int
 val to_string : t -> string
 
 val arity : t -> int
+(** Including parameters *)
+
+val nparams : t -> int
 
 val kind : t -> args_red
+(** Includes parameters. TODO? use option instead of having Kparam *)
```
Comment (maximedenes) [inline kernel/cPrimitives.mli:88]: @SkySkimmer can you elaborate on what you wanted here?

File: kernel/term_typing.ml [hunk 11]
```diff
@@ -62,69 +63,106 @@ let feedback_completion_typecheck =
...
 
-    (** Primitives cannot be universe polymorphic *)
-    | PrimitiveEntry ({ prim_entry_type = otyp;
-                        prim_entry_univs = uctxt;
-                        prim_entry_content = op_t;
-                      }) ->
-      let env = push_context_set ~strict:true uctxt env in
-      let ty = match otyp with
-      | Some typ ->
+    (* TODO? factor monomorphic and polymorphic cases? *)
```
Comment (maximedenes) [inline kernel/term_typing.ml:90]: @SkySkimmer do you think this should be done now?

File: kernel/cPrimitives.mli (hunk 10 above)
Comment (SkySkimmer) [reply kernel/cPrimitives.mli:88]: I forgot, or perhaps my understanding of kparam shifted so that I can't come up with the same idea again. Since it's TODO-question-mark we can just drop it without worries IMO

File: kernel/cPrimitives.mli (hunk 9 above)
Comment (SkySkimmer) [reply kernel/cPrimitives.mli:140]: I think this can be left for future improvement. Perhaps XXX would convey that better than TODO.

File: kernel/term_typing.ml (hunk 11 above)
Comment (SkySkimmer) [reply kernel/term_typing.ml:90]: This already looks reasonably factored, I forgot what more I wanted.

File: kernel/parray.mli [hunk 12]
```diff
@@ -0,0 +1,36 @@
...
+val to_array : 'a t -> 'a array * 'a (* default *)
+
+val of_array : 'a array -> 'a (* default *) -> 'a t
+
+val unsafe_of_array : 'a array -> 'a -> 'a t
+(* [unsafe_of_array] injects a mutable array into a persistent one, but does
+   not perform a copy. This means that if the persistent array is mutated, the
+   original one will be too. *)
+
+val fold_left : ('a -> 'b -> 'a) -> 'a -> 'b t -> 'a
```
Comment (SkySkimmer) [inline kernel/parray.mli:36]: I think this should be applied to the default value too
Or perhaps be called something which makes it clear it doesn't use the default like `fold_left_elems`

File: kernel/parray.ml [hunk 13]
```diff
@@ -0,0 +1,156 @@
...
+
+let rec default_updated p =
+  match !p with
+  | Array (_,def) -> def
+  | Updated (_,_,p) -> default_updated p
+
+let default p =
+  match !p with
+  | Array (_,def) -> def
+  | Updated (_,_,p) -> default_updated p
```
Comment (SkySkimmer) [inline kernel/parray.ml:97]: Why isn't this just 1 function?

Comment (maximedenes) [reply kernel/parray.ml:97]: I don't know, I've been wonderring. These functions are injected as VM values, so I'll confirm with Benjamin whether this is done on purpose or not (to avoid embedding a recursive closure, for some reason). At the very least, it should be commented.

File: test-suite/primitive/arrays/copy.v [hunk 14]
```diff
@@ -0,0 +1,22 @@
+Require Import Int63 PArray.
+
+Open Scope array_scope.
+
+Definition t : array nat := [| 1; 5; 2 | 4 |].
+Definition t' : array nat := PArray.copy t.
+
+Check (eq_refl : t'.[1] = 5).
```
Comment (SkySkimmer) [inline test-suite/primitive/arrays/copy.v:8]: BTW if we want to test the checker these should be Definition instead of Check

File: kernel/constr.ml [hunk 15]
```diff
@@ -895,9 +925,11 @@ let compare_head_gen_leq_with kind1 kind2 leq_universes leq_sorts eq leq nargs t
     && Array.equal_norefl (eq 0) tl1 tl2 && Array.equal_norefl (eq 0) bl1 bl2
   | CoFix(ln1,(_,tl1,bl1)), CoFix(ln2,(_,tl2,bl2)) ->
     Int.equal ln1 ln2 && Array.equal_norefl (eq 0) tl1 tl2 && Array.equal_norefl (eq 0) bl1 bl2
+  | Array(_u1,t1,def1,ty1), Array(_u2,t2,def2,ty2) -> (* FIXME compare u1 and u2 *)
```
Comment (maximedenes) [inline kernel/constr.ml:928]: @SkySkimmer would you mind taking care of this one?

File: kernel/reduction.ml [hunk 16]
```diff
@@ -633,13 +633,29 @@ and eqappr cv_pb l2r infos (lft1,st1) (lft2,st2) cuniv =
         if Float64.equal f1 f2 then convert_stacks l2r infos lft1 lft2 v1 v2 cuniv
         else raise NotConvertible
 
+    | FArray (_u1,t1,ty1), FArray (_u2,t2,ty2) ->
+      (* FIXME compare instances *)
```
Comment (maximedenes) [inline kernel/reduction.ml:637]: @SkySkimmer would you mind taking care of this one?

File: kernel/constr.ml (hunk 15 above)
Comment (SkySkimmer) [reply kernel/constr.ml]: done

File: kernel/reduction.ml (hunk 16 above)
Comment (SkySkimmer) [reply kernel/reduction.ml]: done

File: kernel/relevanceops.ml [hunk 17]
```diff
@@ -54,7 +54,7 @@ let rec relevance_of_fterm env extra lft f =
       | FRel n -> Range.get extra (Esubst.reloc_rel n lft - 1)
       | FAtom c -> relevance_of_term_extra env extra lft (Esubst.subs_id 0) c
       | FFlex key -> relevance_of_flex env key
-      | FInt _ | FFloat _ -> Sorts.Relevant
+      | FInt _ | FFloat _ | FArray _ -> Sorts.Relevant
```
Comment (maximedenes) [inline kernel/relevanceops.ml:57]: @SkySkimmer is this ok?

File: kernel/relevanceops.ml [hunk 18]
```diff
@@ -102,6 +102,7 @@ and relevance_of_term_extra env extra lft subs c =
   | CoFix (i,(lna,_,_)) -> (lna.(i)).binder_relevance
   | Proj (p, _) -> relevance_of_projection env p
   | Int _ | Float _ -> Sorts.Relevant
+  | Array _ -> Sorts.Relevant (* FIXME *)
```
Comment (maximedenes) [inline kernel/relevanceops.ml:105]: @SkySkimmer should something be fixed here?

File: kernel/relevanceops.ml (hunk 17 above)
Comment (SkySkimmer) [reply kernel/relevanceops.ml:57]: yes

File: kernel/relevanceops.ml (hunk 18 above)
Comment (SkySkimmer) [reply kernel/relevanceops.ml:105]:
```suggestion
  | Array _ -> Sorts.Relevant
```

File: pretyping/retyping.ml [hunk 19]
```diff
@@ -301,8 +304,7 @@ let relevance_of_term env sigma c =
       | Fix ((_,i),(lna,_,_)) -> (lna.(i)).binder_relevance
       | CoFix (i,(lna,_,_)) -> (lna.(i)).binder_relevance
       | Proj (p, _) -> Relevanceops.relevance_of_projection env p
-      | Int _ | Float _ -> Sorts.Relevant
-
+      | Int _ | Float _ | Array _ (* FIXME *) -> Sorts.Relevant
```
Comment (maximedenes) [inline pretyping/retyping.ml:307]: @SkySkimmer same here, I just remove the FIXME?

Comment (SkySkimmer) [reply pretyping/retyping.ml:307]: yes

File: pretyping/reductionops.ml [hunk 20]
```diff
@@ -1284,7 +1296,7 @@ let local_whd_state_gen flags _env sigma =
       else s
 
     | Rel _ | Var _ | Sort _ | Prod _ | LetIn _ | Const _  | Ind _ | Proj _
-      | Int _ | Float _ -> s
+      | Int _ | Float _ | Array _ (* FIXME *) -> s
```
Comment (maximedenes) [inline pretyping/reductionops.ml:1299]: This is the last bit that should be addressed, after #11707 and the following refactoring are merged.

File: kernel/parray.ml (hunk 13 above)
Comment (maximedenes) [reply kernel/parray.ml]: Now fixed.

File: kernel/parray.mli (hunk 12 above)
Comment (maximedenes) [reply kernel/parray.mli:35]: Now fixed.

**Comment by maximedenes** [comment]
@ppedrot Would you mind being the assignee for this PR?

File: pretyping/reductionops.ml (hunk 20 above)
Comment (SkySkimmer) [reply pretyping/reductionops.ml:1299]: What needs doing here?

Comment (maximedenes) [reply pretyping/reductionops.ml:1299]: You're right, nothing in fact, since primitives can't be reduced by these local reductions.

**Comment by maximedenes** [comment]
@ejgallego would you mind fixing the ocamlformat linter error?

File: kernel/parray.ml [hunk 21]
```diff
@@ -0,0 +1,138 @@
...
+    done;
+    f !r (default p)
+
+let fold_left2 f a p1 p2 =
+  match !p1, !p2 with
+  | Array (t1, def1), Array (t2, def2) ->
+    f (CArray.fold_left2 f a t1 t2) def1 def2
+  | _ ->
+    let lp1 = length_int p1 in
+    let rec fold a n =
```
Comment (SkySkimmer) [inline kernel/parray.ml:130]: Why does fold_left use imperative `for` but fold_left2 uses recursion?

**Comment by maximedenes** [comment]
@ejgallego Thanks!

File: doc/sphinx/language/core/primitive.rst [hunk 22]
```diff
@@ -105,3 +105,53 @@ Literal values (of type :g:`Float64.t`) are extracted to literal OCaml
...
+
+   Axiom get_set_same : forall A t i (a:A), (i < length t) = true -> t.[i<-a].[i] = a.
+   Axiom get_set_other : forall A t i j (a:A), i <> j -> t.[i<-a].[j] = t.[j].
+
+The complete set of such operators can be obtained looking at the :g:`PArray` module.
+
+These primitive declarations are regular axioms. As such, they must be trusted and are listed by the
+:g:`Print Assumptions` command.
+
+The reduction machines (:tacn:`vm_compute`, :tacn:`native_compute`) implement
```
Comment (gares) [inline doc/sphinx/language/core/primitive.rst:142]: Why the parentheses? I don't get is it only these two that have efficient operations, or not.

File: doc/sphinx/language/core/primitive.rst [hunk 23]
```diff
@@ -105,3 +105,53 @@ Literal values (of type :g:`Float64.t`) are extracted to literal OCaml
...
+dedicated, efficient, rules to reduce the applications of these primitive
+operations.
+
+The extraction of these primitives can be customized similarly to the extraction
+of regular axioms (see :ref:`extraction`). Nonetheless, the :g:`ExtrOCamlPArray`
+module can be used when extracting to OCaml: it maps the Coq primitives to types
+and functions of a :g:`Parray` module. Said OCaml module is not produced by
+extraction. Instead, it has to be provided by the user (if they want to compile
+or execute the extracted code). For instance, an implementation of this module
+can be taken from the kernel of Coq.
```
Comment (gares) [inline doc/sphinx/language/core/primitive.rst:152]: I think you need a more precise pointer (the casual reader may not be comfortable with the sources of Coq)

File: kernel/parray.ml (hunk 21 above)
Comment (maximedenes) [reply kernel/parray.ml:130]: Right, I'm not very consistent. Which one do you prefer?

File: doc/sphinx/language/core/primitive.rst (hunk 22 above)
Comment (maximedenes) [reply doc/sphinx/language/core/primitive.rst:142]: You're right, it is misleading, I'll remove it.

Comment (maximedenes) [reply doc/sphinx/language/core/primitive.rst:141]: Fixed.

File: test-suite/primitive/arrays/copy.v (hunk 14 above)
Comment (maximedenes) [reply test-suite/primitive/arrays/copy.v]: Good point, I changed all checks to definitions.

File: kernel/typeops.ml [hunk 24]
```diff
@@ -213,9 +213,20 @@ let type_of_apply env func funt argsv argstv =
...
+    assert (Univ.Instance.is_empty u);
+    Constr.mkSet
+  | CPrimitives.PT_float64 ->
+    assert (Univ.Instance.is_empty u);
+    Constr.mkSet
+  | CPrimitives.PT_array ->
+    begin match Univ.Instance.to_array u with
+    | [|u|] ->
+      let ty = Constr.mkType (Univ.Universe.make u) in
+      Constr.mkProd(Context.anonR, ty , ty)
```
Comment (gares) [inline kernel/typeops.ml:227]: Can you explain this rule?
It looks like it imitates `Inductive array (A : Type@{u}) : Type@{u} := ..` which looks weird to me.

File: test-suite/Makefile (hunk 6 above)
Comment (maximedenes) [reply test-suite/Makefile]: Done, thanks.

File: kernel/typeops.ml (hunk 24 above)
Comment (gares) [reply kernel/typeops.ml:227]: (parameters do not count for the level of the inductive, right?)

Comment (SkySkimmer) [reply kernel/typeops.ml:227]: What did you expect? I don't see what's weird about it.

Comment (gares) [reply kernel/typeops.ml:227]: Hum, nevermind I got confused. I was expecting Coq would compute a `v >= u` which is not the case.

File: test-suite/primitive/arrays/copy.v [hunk 25]
```diff
@@ -0,0 +1,22 @@
+Require Import Int63 PArray.
```
Comment (JasonGross) [inline test-suite/primitive/arrays/copy.v:1]:
```suggestion
From Coq Require Import Int63 PArray.
```
Robustness against the user setting `COQPATH`

File: test-suite/primitive/arrays/get.v [hunk 26]
```diff
@@ -0,0 +1,66 @@
...
+Eval native_compute in (fun t => t.[0]).
+Eval compute in (fun t => t.[0]).
+Eval cbn in (fun t => t.[0]).
+
+(* Under-application *)
+Eval lazy in @PArray.get.
+Eval vm_compute in @PArray.get.
+Eval native_compute in @PArray.get.
+Eval compute in @PArray.get.
+Eval cbn in @PArray.get.
```
Comment (JasonGross) [inline test-suite/primitive/arrays/get.v:66]: Are you just testing that these don't crash Coq?  It might be worth moving these to an output test-file

File: test-suite/primitive/arrays/get.v [hunk 27]
```diff
@@ -0,0 +1,66 @@
+Require Import Int63 PArray.
+
+Open Scope array_scope.
+
+(* Test reduction of primitives on array with kernel conversion, vm_compute,
```
Comment (JasonGross) [inline test-suite/primitive/arrays/get.v:5]: None of these are actually testing that reduction does reduction, only that the output is consistent.  The "always block reduction" strategy would pass these files, so it might be worth adding some output tests or some Ltac code using, e.g.,
```coq
Ltac check_const_eq name constr :=
  let v := (eval cbv delta [name] in name) in
  tryif constr_eq v constr
  then idtac
  else fail 0 "Not syntactically equal:" name ":=" v "<>" constr.

Notation check_const_eq name constr := (ltac:(check_const_eq name constr; exact constr)) (only parsing).

Definition foo := I.
Check check_const_eq foo I.
Fail Check check_const_eq foo (@eq).
```

File: test-suite/primitive/arrays/default.v [hunk 28]
```diff
@@ -0,0 +1,10 @@
+Require Import Int63 PArray.
```
Comment (JasonGross) [inline test-suite/primitive/arrays/default.v:1]:
```suggestion
From Coq Require Import Int63 PArray.
```

File: test-suite/primitive/arrays/get.v [hunk 29]
```diff
@@ -0,0 +1,66 @@
+Require Import Int63 PArray.
```
Comment (JasonGross) [inline test-suite/primitive/arrays/get.v:1]:
```suggestion
From Coq Require Import Int63 PArray.
```

File: test-suite/primitive/arrays/length.v [hunk 30]
```diff
@@ -0,0 +1,12 @@
+Require Import Int63 PArray.
```
Comment (JasonGross) [inline test-suite/primitive/arrays/length.v:1]:
```suggestion
From Coq Require Import Int63 PArray.
```

File: test-suite/primitive/arrays/literal.v [hunk 31]
```diff
@@ -0,0 +1,6 @@
+Require Import Int63 PArray.
```
Comment (JasonGross) [inline test-suite/primitive/arrays/literal.v:1]:
```suggestion
From Coq Require Import Int63 PArray.
```

File: test-suite/primitive/arrays/make.v [hunk 32]
```diff
@@ -0,0 +1,18 @@
+Require Import Int63 PArray.
```
Comment (JasonGross) [inline test-suite/primitive/arrays/make.v:1]:
```suggestion
From Coq Require Import Int63 PArray.
```

File: test-suite/primitive/arrays/max_length.v [hunk 33]
```diff
@@ -0,0 +1,14 @@
+
+Require Import Int63 PArray.
```
Comment (JasonGross) [inline test-suite/primitive/arrays/max_length.v:2]:
```suggestion
From Coq Require Import Int63 PArray.
```

File: test-suite/primitive/arrays/nested.v [hunk 34]
```diff
@@ -0,0 +1,47 @@
+Require Import Int63 PArray.
```
Comment (JasonGross) [inline test-suite/primitive/arrays/nested.v:1]:
```suggestion
From Coq Require Import Int63 PArray.
```

File: test-suite/primitive/arrays/reroot.v [hunk 35]
```diff
@@ -0,0 +1,22 @@
+Require Import PArray Int63.
```
Comment (JasonGross) [inline test-suite/primitive/arrays/reroot.v:1]:
```suggestion
From Coq Require Import Int63 PArray.
```

File: test-suite/primitive/arrays/set.v [hunk 36]
```diff
@@ -0,0 +1,22 @@
+Require Import PArray Int63.
```
Comment (JasonGross) [inline test-suite/primitive/arrays/set.v:1]:
```suggestion
From Coq Require Import Int63 PArray.
```

File: theories/Array/PArray.v [hunk 37]
```diff
@@ -0,0 +1,105 @@
+Require Import Int63.
+
+Primitive array := #array_type.
+
+Primitive make : forall A, int -> A -> array A := #array_make.
+Arguments make {_} _ _.
+
+Primitive get := #array_get.
```
Comment (JasonGross) [inline theories/Array/PArray.v:8]: Why not include types for this and all the other primitives?  I think it would improve documentation of this file a lot.

File: theories/Array/PArray.v [hunk 38]
```diff
@@ -0,0 +1,105 @@
...
+Primitive set := #array_set.
+Arguments set {_} _ _ _.
+
+Primitive length := #array_length.
+Arguments length {_} _.
+
+Primitive copy := #array_copy.
+Arguments copy {_} _.
+
+Primitive reroot := #array_reroot.
```
Comment (JasonGross) [inline theories/Array/PArray.v:23]: All the other operations are obvious, I think this one deserves a comment describing it, or at least pointing to a description of it.

File: test-suite/primitive/arrays/literal.v [hunk 39]
```diff
@@ -0,0 +1,6 @@
...
+
+Open Scope array_scope.
+
+Definition t1 : array nat := [| 3; 3; 3; 3 | 3 |].
+Definition t2 := [|Type|Type|].
```
Comment (JasonGross) [inline test-suite/primitive/arrays/literal.v:6]: I think we should also test interaction with `Set Universe Polymorphism` / polymorphic universes somewhere.  (For that matter, is there any reason why we don't make `array` universe polymoprhic itself, having type `array@{i} : Type@{i} -> Type@{i}`?)

File: theories/Array/PArray.v [hunk 40]
```diff
@@ -0,0 +1,105 @@
...
+Arguments reroot {_} _.
+
+Declare Scope array_scope.
+Delimit Scope array_scope with array.
+Notation "t .[ i ]" := (get t i)
+  (at level 2, left associativity, format "t .[ i ]").
+Notation "t .[ i <- a ]" := (set t i a)
+  (at level 2, left associativity, format "t .[ i <- a ]").
```
Comment (JasonGross) [inline theories/Array/PArray.v:31]: Please put these in their own module, so that I can import the notations without having to import the unqualified names of all the operations
```suggestion
Module Export PArrayNotations.
  Declare Scope array_scope.
  Delimit Scope array_scope with array.
  Notation "t .[ i ]" := (get t i)
    (at level 2, left associativity, format "t .[ i ]").
  Notation "t .[ i <- a ]" := (set t i a)
    (at level 2, left associativity, format "t .[ i <- a ]").
End PArrayNotations.
```

File: theories/Array/PArray.v [hunk 41]
```diff
@@ -0,0 +1,105 @@
...
+Primitive copy := #array_copy.
+Arguments copy {_} _.
+
+Primitive reroot := #array_reroot.
+Arguments reroot {_} _.
+
+Declare Scope array_scope.
+Delimit Scope array_scope with array.
+Notation "t .[ i ]" := (get t i)
+  (at level 2, left associativity, format "t .[ i ]").
```
Comment (JasonGross) [inline theories/Array/PArray.v:29]: Why at level 2 rather than level 1, like the `.( ... )` projection syntax is?

File: theories/Array/PArray.v [hunk 42]
```diff
@@ -0,0 +1,105 @@
...
+Notation "t .[ i <- a ]" := (set t i a)
+  (at level 2, left associativity, format "t .[ i <- a ]").
+
+Local Open Scope int63_scope.
+Local Open Scope array_scope.
+
+Primitive max_length := #array_max_length.
+
+(** Axioms *)
+Axiom get_outofbound : forall A (t:array A) i, (i < length t) = false -> t.[i] = default t.
```
Comment (JasonGross) [inline theories/Array/PArray.v:39]: Does the `Int63` module not define any Prop-valued relations (even just an abbreviation like `Notation le a b := (leb a b = true)`?

File: theories/Array/PArray.v [hunk 43]
```diff
@@ -0,0 +1,105 @@
...
+
+Axiom get_set_same : forall A t i (a:A), (i < length t) = true -> t.[i<-a].[i] = a.
+Axiom get_set_other : forall A t i j (a:A), i <> j -> t.[i<-a].[j] = t.[j].
+Axiom default_set : forall A t i (a:A), default t.[i<-a] = default t.
+
+
+Axiom get_make : forall A (a:A) size i, (make size a).[i] = a.
+Axiom default_make : forall A (a:A) size, (default (make size a)) = a.
+
+Axiom ltb_length : forall A (t:array A), length t <= max_length = true.
```
Comment (JasonGross) [inline theories/Array/PArray.v:49]: Shouldn't this be
```suggestion
Axiom leb_length : forall A (t:array A), length t <= max_length = true.
```
?

File: theories/Array/PArray.v [hunk 44]
```diff
@@ -0,0 +1,105 @@
...
+(** Axioms *)
+Axiom get_outofbound : forall A (t:array A) i, (i < length t) = false -> t.[i] = default t.
+
+Axiom get_set_same : forall A t i (a:A), (i < length t) = true -> t.[i<-a].[i] = a.
+Axiom get_set_other : forall A t i j (a:A), i <> j -> t.[i<-a].[j] = t.[j].
+Axiom default_set : forall A t i (a:A), default t.[i<-a] = default t.
+
+
+Axiom get_make : forall A (a:A) size i, (make size a).[i] = a.
+Axiom default_make : forall A (a:A) size, (default (make size a)) = a.
```
Comment (JasonGross) [inline theories/Array/PArray.v:47]:
```suggestion
Axiom default_make : forall A (a:A) size, default (make size a) = a.
```

File: theories/Array/PArray.v [hunk 45]
```diff
@@ -0,0 +1,105 @@
...
+Axiom length_make : forall A size (a:A),
+  length (make size a) = if size <= max_length then size else max_length.
+Axiom length_set : forall A t i (a:A),
+  length t.[i<-a] = length t.
+
+Axiom get_copy : forall A (t:array A) i, (copy t).[i] = t.[i].
+Axiom length_copy : forall A (t:array A), length (copy t) = length t.
+
+Axiom get_reroot : forall A (t:array A) i, (reroot t).[i] = t.[i].
+Axiom length_reroot : forall A (t:array A), length (reroot t) = length t.
```
Comment (JasonGross) [inline theories/Array/PArray.v:60]: Are `copy` and `reroot` allowed to change the default element?  Why not just say `copy t = t` and `reroot t = t`?

File: theories/Array/PArray.v (hunk 42 above)
Comment (JasonGross) [inline theories/Array/PArray.v:39]: Maybe this would be better as 
```suggestion
Axiom get_outofbounds : forall A (t:array A) i, (i < length t) = false -> t.[i] = default t.
```
or even
```suggestion
Axiom get_out_of_bounds : forall A (t:array A) i, (i < length t) = false -> t.[i] = default t.
```
or even
```suggestion
Axiom get__out_of_bounds : forall A (t:array A) i, (i < length t) = false -> t.[i] = default t.
```

File: theories/Array/PArray.v (hunk 44 above)
Comment (JasonGross) [reply theories/Array/PArray.v:47]: But anyway this is provable from `get_make`, `length_make`, and `get_outofbound` the same way you currently prove `default_copy`

File: theories/Array/PArray.v [hunk 46]
```diff
@@ -0,0 +1,105 @@
...
+  t.[i <- default t].[i] = default t.
+Proof.
+ case_eq (i < (length t)); intros.
+   rewrite get_set_same; trivial.
+ rewrite get_outofbound, default_set; trivial.
+ rewrite length_set; trivial.
+Qed.
+
+Lemma get_not_default_lt A (t:array A) x :
+ t.[x] <> default t -> (x < length t)%int63 = true.
```
Comment (JasonGross) [inline theories/Array/PArray.v:100]:
```suggestion
 t.[x] <> default t -> (x < length t) = true.
```

File: theories/Array/PArray.v [hunk 47]
```diff
@@ -0,0 +1,105 @@
...
+    exfalso; eapply BinInt.Z.lt_irrefl; eassumption.
+  assert (get_reroot := get_reroot A t (length t)).
+  rewrite !get_outofbound in get_reroot; try assumption.
+  rewrite length_reroot; assumption.
+Qed.
+
+Lemma get_set_same_default A (t : array A) (i : int) :
+  t.[i <- default t].[i] = default t.
+Proof.
+ case_eq (i < (length t)); intros.
```
Comment (JasonGross) [inline theories/Array/PArray.v:93]:
```suggestion
 case_eq (i < length t); intros.
```

**Review by JasonGross — CHANGES_REQUESTED** [review]
Nice work!

I think it would be nice to add at least one test-case in the test-suite for each of the axioms declared in the `PArray.v`.  Also, some tests of empty arrays and max-length arrays.

**Review by JasonGross — DISMISSED** [review]
Don't forget to update `user-contrib/Ltac2/Init.v` with the `parray` type and `user-contrib/Ltac2/Constr.v` with the `Array` constructor for kind of term.  And then maybe add a test-case for Ltac2 showing that `Constr.Unsafe.kind` works on primitive arrays?

File: kernel/parray.ml (hunk 21 above)
Comment (maximedenes) [reply kernel/parray.ml:130]: In fact, it is better to reroot and call the stdlib functions.

File: doc/sphinx/language/core/primitive.rst [hunk 48]
```diff
@@ -105,3 +104,53 @@ Literal values (of type :g:`Float64.t`) are extracted to literal OCaml
...
+dedicated, efficient, rules to reduce the applications of these primitive
+operations.
+
+The extraction of these primitives can be customized similarly to the extraction
+of regular axioms (see :ref:`extraction`). Nonetheless, the :g:`ExtrOCamlPArray`
+module can be used when extracting to OCaml: it maps the Coq primitives to types
+and functions of a :g:`Parray` module. Said OCaml module is not produced by
+extraction. Instead, it has to be provided by the user (if they want to compile
+or execute the extracted code). For instance, an implementation of this module
+can be taken from the kernel of Coq (see ``kernel/parray.ml``).
```
[the remark this answers is not in the document]
Comment (maximedenes) [reply doc/sphinx/language/core/primitive.rst:151]: I think the extraction story is not fully sorted out, so I'd rather avoid introducing some testing machinery that is anyway going to be fragile. I don't know how the file gets installed, but there's nothing specific to this one (ints, floats work the same).

File: theories/Array/PArray.v (hunk 41 above)
Comment (maximedenes) [reply theories/Array/PArray.v:29]: Because otherwise it breaks mathcomp IIRC.

File: theories/Array/PArray.v (hunk 42 above)
Comment (maximedenes) [reply theories/Array/PArray.v]: What would be the use case, since order is decidable on integers?

File: test-suite/primitive/arrays/literal.v (hunk 39 above)
Comment (maximedenes) [reply test-suite/primitive/arrays/literal.v:6]: I thought it was polymorphic now, right, @SkySkimmer?

File: test-suite/primitive/arrays/get.v (hunk 27 above)
Comment (maximedenes) [reply test-suite/primitive/arrays/get.v:5]: Sorry, but what makes you say that the "always block" reduction would succeed? Unless I made a big mistake somewhere, it would not, that's the whole point of these files.

File: test-suite/primitive/arrays/get.v (hunk 26 above)
Comment (maximedenes) [reply test-suite/primitive/arrays/get.v:66]: Yes, I was testing that they don't crash, as they did in some incomplete prototype. We could turn them into output tests, but it would not be super useful (the output is the input), and our current testing infrastructure would require moving these tests to the messy `output` folder. I prefer to keep all tests on arrays grouped.

File: theories/Array/PArray.v (hunk 37 above)
Comment (maximedenes) [reply theories/Array/PArray.v:8]: I also like it from the documentation point of view, but does it have the same semantics w.r.t. universes, @SkySkimmer ? I.e. if I write `Type`, will it be the same as writing nothing, or will it become stricter (like `> Set`)?

File: theories/Array/PArray.v (hunk 45 above)
Comment (maximedenes) [reply theories/Array/PArray.v:60]: Good point, we should make it just one axiom.

File: theories/Array/PArray.v (hunk 44 above)
Comment (maximedenes) [reply theories/Array/PArray.v:47]: Good point, will fix.

File: theories/Array/PArray.v (hunk 40 above)
Comment (maximedenes) [reply theories/Array/PArray.v:31]: Right, it would be better. Will fix.

File: test-suite/primitive/arrays/literal.v (hunk 39 above)
Comment (SkySkimmer) [reply test-suite/primitive/arrays/literal.v:6]: `array` is universe polymorphic.

**Comment by maximedenes** [comment]
@JasonGross thanks for the useful feedback, I'm implementing your suggestions.

@ppedrot is there a test somewhere for Ltac2's `Constr.Unsafe.kind`?

**Comment by ppedrot** [comment]
There are tests in test-suite/ltac2/binder.v and test-suite/ltac2/constr.v.

File: test-suite/primitive/arrays/get.v (hunk 26 above)
Comment (SkySkimmer) [reply test-suite/primitive/arrays/get.v:66]: We can also test reduction using ltac match.

File: theories/Array/vo.itarget [hunk 49]
```diff
@@ -0,0 +1 @@
+PArray.vo
```
Comment (SkySkimmer) [inline theories/Array/vo.itarget:1]: This file should be deleted (itargets are from ocamlbuild experiment days iirc)

File: theories/Array/PArray.v (hunk 37 above)
Comment (SkySkimmer) [reply theories/Array/PArray.v:8]: If you write something which isn't the same as writing nothing it will be rejected, so try and see.

File: theories/Array/PArray.v (hunk 45 above)
Comment (maximedenes) [reply theories/Array/PArray.v:60]: Although, I think I prefer the weaker axioms and derive the equality from extensionnality.

File: theories/Array/PArray.v (hunk 37 above)
Comment (maximedenes) [reply theories/Array/PArray.v:8]: Are you sure? It could also produce something with more restricted universes, that we don't observe yet. That's why I was asking.

Comment (SkySkimmer) [reply theories/Array/PArray.v:8]: The kernel checks that it gets exactly what it expects. You cannot restrict even if you try.

File: test-suite/primitive/arrays/get.v (hunk 27 above)
Comment (JasonGross) [reply test-suite/primitive/arrays/get.v:5]: They need to not block conversion.  And insofar as reduction and conversion are the same they need to not block reduction.  But all of the ` Eval ... in foo` could be replaced by `foo` without breaking the tests, so the tests are just making sure that `Eval ...` doesn't step to a bad term, and are not testing whether or not it steps at all.

File: test-suite/primitive/arrays/get.v (hunk 26 above)
Comment (JasonGross) [reply test-suite/primitive/arrays/get.v:66]: I would suggest using something like
```coq
Ltac check_const_eq name constr :=
  let v := (eval cbv delta [name] in name) in
  tryif constr_eq v constr
  then idtac
  else fail 0 "Not syntactically equal:" name ":=" v "<>" constr.

Notation check_const_eq name constr := (ltac:(check_const_eq name constr; exact constr)) (only parsing).

Definition cbn_get := Eval cbn in @PArray.get.
Check check_const_eq cbn_get (@PArray.get).
```
in that case, and then you can check the syntactic form of the output of reduction.

File: test-suite/primitive/arrays/literal.v (hunk 39 above)
Comment (JasonGross) [reply test-suite/primitive/arrays/literal.v:6]: Huh, so `Primitive` doesn't need to be marked `Polymorphic`?  In that case, shouldn't we `Set Universe Polymorphism` in the whole file so that the axioms are also polymorphic?  Or does it not matter if the axioms are polymorphic, because they all land in `Prop`?  And are the primitive operations polymorphic?  (And if we declare `array` in a section with monomorphic variables, does it fail, or does it do something strange?). And can we test the universe polymorphism, e.g., do `[|array|array|]` and `[|get|get|].[0]` and `[|set|set|].[0 <- set]`.

File: theories/Array/PArray.v (hunk 42 above)
Comment (JasonGross) [reply theories/Array/PArray.v]: Consistency with the rest of the standard library.  Order is decidable on `nat` and `Z`, and there are still Prop-valued relations there.  (But maybe ssr has taught us that this is a mistake?)

Comment (maximedenes) [reply theories/Array/PArray.v]: > Consistency with the rest of the standard library

Well, consistency isn't really a use case ;)

> But maybe ssr has taught us that this is a mistake

I think it has, at least that's my understanding. So I'd rather not repeat it here. Note that nothing prevents users who need it to define Prop-valued relations, but I'd rather keep the libraries minimal in this regard, at least as part of this PR.

File: theories/Array/PArray.v [hunk 50]
```diff
@@ -0,0 +1,117 @@
...
+  (at level 2, left associativity, format "t .[ i ]").
+Notation "t .[ i <- a ]" := (set t i a)
+  (at level 2, left associativity, format "t .[ i <- a ]").
+
+End PArrayNotations.
+
+Local Open Scope int63_scope.
+Local Open Scope array_scope.
+
+Primitive max_length := #array_max_length.
```
Comment (JasonGross) [inline theories/Array/PArray.v:40]:
```suggestion
Primitive max_length : int := #array_max_length.
```

**Review by JasonGross — COMMENTED** [review]
Does `decide equality` work on inductives with `array` (or ints or floats, for that matter)?  Can it be made to work?  Also, it might be nice to provide implementations of the basic array combinators (e.g., the things in OCaml's `Array` module and/or the things in Coq's Lists file).  I can try to provide an implemention of these if you want me to.  (Though I'm not sure how to get fast looping for very large arrays; it seems like we can't use `nat` for fuel and instead need to do some sort of `Wf` argument, maybe arguing that `int` is `Wf` both under `lt` and under `gt`?)

**Comment by maximedenes** [comment]
@JasonGross you're right that we are missing combinators, but that's on purpose. We plan to implement them using a specific construction for primitive well founded recursion. That's the very next step after this PR :)

**Comment by JasonGross** [comment]
> We plan to implement them using a specific construction for primitive well founded recursion. That's the very next step after this PR :)

That's neat!  I was thinking about how to implement this with just the standard machinery in Coq, and I think I could probably do it: I can hand-craft a term that proves `Wf` of, say, `int`s <= 1.  Then I could make a combinator that goes from `int`s <= x to `int`s <= 10 * x, by function composition, or something like that (I might have to generalize the types a bit more or something).  Then I could get all the way up to max_int by composing these, vm_compute the type so that it's simple, and hopefully there'd be not too much extra computation going on.  But your way seems perhaps nicer.

**Comment by JasonGross** [comment]
Does the array literal notation conflict with things like `induction n as [|n IHn]`?  What about `induction n as [||]` or `induction n as [|x|y|]`?  (Is there a test for lack-of-conflict?)

**Comment by JasonGross** [comment]
I've tried my hand at making a good `well_founded` proof for `Int63.ltb`.  I did not succeed, but I left my work at https://gist.github.com/JasonGross/f94a0f6a70fc2a4f06c6fa29d890fd83 in case any future viewer of this comment wants to take a look at it.  I look forward to seeing the future work on an efficient primitive well-founded recursion scheme.

**Comment by maximedenes** [comment]
> Does the array literal notation conflict with things like `induction n as [|n IHn]`? What about `induction n as [||]` or `induction n as [|x|y|]`? (Is there a test for lack-of-conflict?)

The grammars are distinct, so there's no conflict in the usual sense. We also made sure not to change the lexer, so all these examples should work fine.

File: kernel/byterun/coq_interp.c [hunk 51]
```diff
@@ -1771,6 +1773,63 @@ value coq_interprete
...
       }
 
+
+      Instruct(ISINT_CAML_CALL2) {
+              print_instr("ISINT_CAML_CALL2");
+              if (Is_uint63(accu)) {
+                pc++;
+                print_int(*pc);
+                Setup_for_caml_call;
+                accu = caml_callback2(Field(coq_global_data, *pc),accu, sp[1]);
```
Comment (silene) [inline kernel/byterun/coq_interp.c:1783]: That is a bit too frail. Please read `sp[0]` before `Setup_for_caml_call` rather than working under the assumption that the latter decreases the stack pointer by exactly one. (Same thing for the following new opcodes.)

File: kernel/cPrimitives.ml [hunk 52]
```diff
@@ -188,54 +211,211 @@ let to_string = function
...
+type prim_type_ex = PTE : 'a prim_type -> prim_type_ex
+
+type prim_ind_ex = PIE : 'a prim_ind -> prim_ind_ex
 
 let types =
-  let int_ty = PITT_type PT_int63 in
-  let float_ty = PITT_type PT_float64 in
+  let int_ty = PITT_type (PT_int63, ()) in
+  let float_ty = PITT_type (PT_float64, ()) in
+  let array_param =
```
Comment (silene) [inline kernel/cPrimitives.ml:268]: Why `array_param` instead of `array_ty`? Are the semantics different?

File: kernel/cPrimitives.ml [hunk 53]
```diff
@@ -188,54 +211,211 @@ let to_string = function
...
+    PITT_type
+      (PT_array,
+       (Instance.of_array [|Level.var 0|],
+        PITT_param 1))
+  in
   function
-  | Int63head0 | Int63tail0 -> [int_ty; int_ty]
+  | Int63head0 | Int63tail0 -> [[int_ty]; [int_ty]]
```
Comment (silene) [inline kernel/cPrimitives.ml:275]: Why put all the types into length-1 arrays? What are the semantics of length-2 arrays? Is there a use case somewhere?

File: kernel/byterun/coq_interp.c [hunk 54]
```diff
@@ -1771,6 +1773,63 @@ value coq_interprete
...
+                Restore_after_caml_call;
+                sp += 1;
+                pc++;
+              } else pc += *pc;
+              Next;
+      }
+
+      Instruct(ISARRAY_CAML_CALL1) {
+        print_instr("ISARRAY_CAML_CALL1");
+              if (Is_coq_array(accu)) {
```
Comment (silene) [inline kernel/byterun/coq_interp.c:1793]: The naming `ISARRAY_CAML_CALL1` and `Is_coq_array` is really confusing, because what is actually tested is a length-1 block. It does not have anything to do with arrays in the first place.

More generally, this whole callback mechanism does not seem to care whether things are integers or blocks in the first place (and even less about the size of these blocks). The only thing that matters is whether some arguments are possibly accumulators.

So, it would seem better to systematically use `!Is_accu(...)` and to name the opcodes something like `ISNONACCU2_CALL3` to mean that this is a 3-argument callback that is valid as soon as the first two arguments are not accumulators.

File: kernel/byterun/coq_interp.c (hunk 51 above)
Comment (proux01) [reply kernel/byterun/coq_interp.c:1783]: I'm more worried by the fact that `accu` is not protected. Is there a good reason not to protect it?

Note that there already are OCaml callbacks in `coq_uint63_emul.h`, it might be worth unifying this.
Lokking at this code, I note calls to `CAMLparam` and `CAMLreturn` macros. They might very well be "ceinture et bretelles" but are we sure?

**Comment by proux01** [comment]
@maximedenes knowing that OCaml has a special handling of floating-point arrays, do we have an idea how primitive arrays do interact with primitive floats? Would you like me to get a closer look on this point?

Last question : I see that the VM code makes callbacks to OCaml code, is there an evaluation of the pros and cons compared to a pure C implem? I remember from primitive integers on 32 bits arch that such callbacks can be quite delicate to get both right and efficient.

File: kernel/byterun/coq_interp.c (hunk 51 above)
Comment (proux01) [reply kernel/byterun/coq_interp.c:1783]: I had a look at OCAml's `callback.c` and it appears that the `CAMLparam` macros are indeed useless (they are already included in `caml_callback`), neither do we need to protect `accu`. So my previous comment can just be dismissed. Sorry for the noise.

**Comment by maximedenes** [comment]
> knowing that OCaml has a special handling of floating-point arrays, do we have an idea how primitive arrays do interact with primitive floats? Would you like me to get a closer look on this point?

Yes, I would be very interested if you can have a look. This work on primitive arrays dates back from before primitive floats, so I wouldn't be surprised if we overlooked some interactions.

**Comment by proux01** [comment]
I did play with it and had a closer look to the code. Everything seems fine with floats, congrats!
In fact, since everything is implemented in OCaml, we even take benefit of OCaml's unboxed float arrays.

File: test-suite/primitive/arrays/literal.v (hunk 39 above)
Comment (maximedenes) [reply test-suite/primitive/arrays/literal.v:6]: @SkySkimmer do you think we need to make axioms / properties universe polymorphic?

Comment (SkySkimmer) [reply test-suite/primitive/arrays/literal.v:6]: It would be strange not to IMO

File: kernel/byterun/coq_interp.c (hunk 54 above)
Comment (maximedenes) [reply kernel/byterun/coq_interp.c:1795]: Unfortunately, `!Is_accu` does not work, since persistent arrays are references, they seem to carry tag `0` which is also the tag of accumulators (that's why we use the size to distinguish both). Of course, I'm happy to refine the naming if there are other suggestions.

Comment (silene) [reply kernel/byterun/coq_interp.c:1795]: I thought accumulators were using a different tag that could not conflict. That is really unfortunate.

**Comment by maximedenes** [comment]
@JasonGross Sorry, the coq-tools message asks to mention you, but where can I see the error message, first?

**Comment by JasonGross** [comment]
The error is
```
1684Exception: No valid ltac support snipped found.  Debugging info: {'\nDeclare ML Module "ltac_plugin".\n\nInductive False := .\nAxiom proof_admitted : False.\nTactic Notation "admit" := abstract case proof_admitted.': {'output': '\nTimeout!', 'cmds': ('coqc', '-q', '-nois', '/tmp/tmp4mlxzij0.v', '-q'), 'retcode': -15}, 'Require Coq.Init.Notations.\n\nImport Coq.Init.Notations.\n\nInductive False := .\nAxiom proof_admitted : False.\nTactic Notation "admit" := abstract case proof_admitted.': {'output': 'File "/tmp/tmpd191i9s3.v", line 7, characters 0-6:\nError: Syntax error: illegal begin of vernac.\n\n', 'cmds': ('coqc', '-q', '-nois', '/tmp/tmpd191i9s3.v', '-q'), 'retcode': 1}}
```
Which is saying that running `coqc -q -nois` on
```coq
Declare ML Module "ltac_plugin".

Inductive False := .
Axiom proof_admitted : False.
Tactic Notation "admit" := abstract case proof_admitted.
```
takes *over two seconds* to run and therefore times out.  I'm not sure what to do here.  I can tell it to retry a couple of times when it times out?  But it seems a bit absurd to me that this can take over two seconds.  (Normally it takes much less than a tenth of a second, I believe.)

**Comment by maximedenes** [comment]
> takes _over two seconds_ to run and therefore times out

Thanks for the feedback. I don't know anything about the context, but why are running this with a timeout?

**Comment by maximedenes** [comment]
Side question for future similar problems: where do I see it is a timeout ? I read "Syntax error: illegal begin of vernac".

**Comment by JasonGross** [comment]
> Thanks for the feedback. I don't know anything about the context, but why are running this with a timeout?

I need to run most of the coqc invocations with a timeout because it's quite easy to accidentally insert an infinite loop during minimization, e.g., by removing a typeclass that hides a loop in typeclass resolution.  In this case, it's not needed, so perhaps I should just remove the timeout.  The reason I'd left it in was so that I wouldn't have to duplicate code.

**Comment by JasonGross** [comment]
> Side question for future similar problems: where do I see it is a timeout ? I read "Syntax error: illegal begin of vernac".

The purpose of this bit of code is to figure out what's required to add a tactic notation when running coqc with -nois.  So it runs the two possibilities though coqc.  One of them gives a syntax error here, while the other gives the aforementioned timeout error.  Since internally these are both just "error"s, I report both of them in the debugging information.  (And the fact that so much contextual knowledge is needed to interpret the debugging information is a large part of why I print out the "contact Jason" at the bottom.)

**Comment by JasonGross** [comment]
I've disabled the timeout in https://github.com/JasonGross/coq-tools/commit/5af4e82dcc4f4b1faf64a76c21ab0449894b546b , so hopefully we shouldn't see this particular error again.

**Comment by JasonGross** [comment]
Btw, for future reference, the way the output of the coq-tools CI is structured is that at the bottom, you see the list of passing tests, followed by the list of failing tests.  Above that, you see the log from each failing test.  At the bottom of each log, you will see the error message.  In this case, it's a Python exception:
```
Traceback (most recent call last):
  File "../../find-bug.py", line 1185, in <module>
    inlined_contents = add_admit_tactic(inlined_contents, **env)
  File "../../find-bug.py", line 909, in add_admit_tactic
    before, after = get_ltac_support_snippet(**kwargs)
  File "/builds/coq/coq/_build_ci/coq_tools/coq_version.py", line 139, in get_ltac_support_snippet
    raise Exception('No valid ltac support snipped found.  Debugging info: %s' % repr(errinfo))
Exception: No valid ltac support snipped found.  Debugging info: {'\nDeclare ML Module "ltac_plugin".\n\nInductive False := .\nAxiom proof_admitted : False.\nTactic Notation "admit" := abstract case proof_admitted.': {'output': '\nTimeout!', 'cmds': ('coqc', '-q', '-nois', '/tmp/tmp4mlxzij0.v', '-q'), 'retcode': -15}, 'Require Coq.Init.Notations.\n\nImport Coq.Init.Notations.\n\nInductive False := .\nAxiom proof_admitted : False.\nTactic Notation "admit" := abstract case proof_admitted.': {'output': 'File "/tmp/tmpd191i9s3.v", line 7, characters 0-6:\nError: Syntax error: illegal begin of vernac.\n\n', 'cmds': ('coqc', '-q', '-nois', '/tmp/tmpd191i9s3.v', '-q'), 'retcode': 1}}
```
I've tried to make the error messages sufficiently informative about what is going on, as well as containing enough debug information to diagnose why it's showing up here and not elsewhere.

**Comment by maximedenes** [comment]
@JasonGross Thanks for the answers and the fix!

File: user-contrib/Ltac2/Init.v [hunk 55]
```diff
@@ -18,6 +18,7 @@ Ltac2 Type char.
 Ltac2 Type ident.
 Ltac2 Type uint63.
 Ltac2 Type float.
+Ltac2 Type parray.
```
Comment (ppedrot) [inline user-contrib/Ltac2/Init.v:21]: This is a spurious change, isn't it? You should probably remove it.

Comment (maximedenes) [reply user-contrib/Ltac2/Init.v:21]: Ah yes, this is from a previous version of the Ltac2 changes. Will remove.

Comment (maximedenes) [reply user-contrib/Ltac2/Init.v]: Fixed.

**Comment by ppedrot** [comment]
Let's merge!

**Review by ppedrot — APPROVED** [review]

**Comment by gares** [comment]
drum roll...

**Comment by proux01** [comment]
Congrats @maximedenes and all who helped here!

**Comment by ejgallego** [comment]
Can you add a list of the PR for overlays in the top post ?

**Comment by jfehrle** [comment]
I'm curious about this grammar production:

```
     | test_array_opening; "["; "|"; ls = array_elems; "|"; def = lconstr; ty = type_cstr; test_array_closing; "|"; "]"; u = univ_instance ->
```

and the non-terminal definition of `test_array_opening` and `test_array_closing`, e.g.

```
let test_array_opening =
  let open Pcoq.Lookahead in
  to_entry "test_array_opening" begin
    lk_kw "[" >> lk_kw "|" >> check_no_space
  end
```

Why can't the single-character tokens be replaced with two-character tokens and dropping the lookahead, giving this simpler form?

```
     | "[|"; ls = array_elems; "|"; def = lconstr; ty = type_cst; "|]"; u = univ_instance ->
```

**Comment by JasonGross** [comment]
> Why can't the single-character tokens be replaced with two-character tokens while dropping the lookahead, giving this simpler form?

This would interfere with any user-defined notations of the form `Notation "[ | .... | ]" := ...`, right?  I think in general proper factorization of user-land notations requires not having two-character tokens if you expect the characters to ever possibly appear adjacent in other notations.

**Comment by jfehrle** [comment]
How quaint.  Why would you define the notation with `"[ | .... | ]"` instead of `"[| .... |]"`?  And if there is an instance where the input `[|` should be considered two separate tokens, the obvious thing to do is to put a space between them.  I wonder if this was considered.

The only other similar case is for `|` `}` (but not for it's matching sequence `{|`).  It seems very quirky in that applies to only these three specific sequences.

```
  bar_cbrace:
    [ [ test_pipe_closedcurly; "|"; "}" -> { () } ] ]
```

**Comment by JasonGross** [comment]
I think @herbelin might have more readily accessible context / examples.

**Comment by herbelin** [comment]
>  And if there is an instance where the input `[|` should be considered two separate tokens, the obvious thing to do is to put a space between them. I wonder if this was considered.

This is indeed the policy applied e.g. in Agda. In Coq, we got used to write e.g. `destruct x as [|]` which would then have to be written `destruct x as [ | ]`. Other examples includes e.g.  things like `{x:Z| x = |x|}` (what I reconstructed from the discussion at #10167).

**Comment by jfehrle** [comment]
OK, thanks for explaining.

**Comment by fakusb** [comment]
Is it to be expected that I need to make the following function using Arrays polymorphic in order to execute it on an nat-array?

````
Require Import Array.PArray BinInt.
Require Import Int63.

Definition testArray : array nat := [| 1; 2; 4 | 0 : nat |].

Polymorphic Definition array_fold_right {A B : Type} (f: B -> A -> A) (a:A) (bs:array B) : A :=
  let size := length bs in
  fst (nat_rect (fun _ => (A*int)%type) (a,size-1)%int63
       (fun _ '(a',i)=> ( f (get bs i) a' ,pred i)) (Z.to_nat (Int63.to_Z size))).

Compute array_fold_right cons nil testArray.
````

**Comment by SkySkimmer** [comment]
I guess we need cumulativity for rigid polymorphic constants like `array` same as we already have for `list`.

**Comment by fakusb** [comment]
I opened #13354 for this.
